US03991045
In 2 ml of water was dissolved 300 mg (1.23 m-mols) of 1-β-D-arabinofuranosylcytosine (molecular weight 243) and after adding to the solution 30 ml of dioxane (molecular weight 88) and 1566 mg (2.47 m-mols) of heneicosanoic anhydride (molecular weight 634), the mixture was heated to 80° C to dissolve the solid materials. After stirring the solution for 5 hours at 80° C, the reaction mixture was allowed to cool and the precipitates formed were collected by filtration, washed sufficiently, and dried. Then, the precipitates were added to n-hexane followed by refluxing. After cooling, the precipitates were collected by filtration and recrystallized from ethyl acetate to provide 661 mg (1.20 m-mols) of N4 -heneicosanoyl-1-β-D-arabinofuranosylcytosine (molecular weight 551) at a yield of 97.6% with a melting point of 139° to 142° C.

reactant | 1-β-D-arabinofuranosylcytosine | 300 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | heneicosanoic anhydride | 1566 mg | C(CCCCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCCCC)=O | C42H82O3
solvent | water | 2 ml | O | H2O
product | N4 -heneicosanoyl-1-β-D-arabinofuranosylcytosine | 661 mg, yield of 97.6% | C(CCCCCCCCCCCCCCCCCCCC)(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C30H53N3O6
